US05646173
A solution of 2 g of (RS)-2-(2-oxoethyl)-5-methoxy-1-indanone and 80 mg of p-toluenesulfonic acid in 90 ml of anhydrous toluene was heated on a water separator. A solution of 2.94 g of (RS)-1-amino-2-propanol in 20 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes. Subsequently, the mixture was boiled for an additional 35 minutes, during which the solvent was reduced to a volume of 25 ml. The cooled reaction mixture was purified by column chromatography on silica gel (ethyl acetate/toluene 1:1). There were obtained 1.6 g (67%) of (RS)-1-(6-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol as a brown oil which was used directly in the next reaction.

reactant | (RS)-2-(2-oxoethyl)-5-methoxy-1-indanone | 2 g | O=CCC1C(C2=CC=C(C=C2C1)OC)=O | C12H12O3
reactant | water | O | H2O
reactant | (RS)-1-amino-2-propanol | 2.94 g | NCC(C)O | C3H9NO
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 80 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(6-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 1.6 g, 67% | COC=1C=C2CC3=C(N(C=C3)CC(C)O)C2=CC1 | C15H17NO2
